US05605901
Propanal (1.51 g) dissolved in 5 ml of methanol was added dropwise to 6.15 g of 2-aminomethyl-5-[4,5-dihydro-pyridazin-3(2H)-on-6-yl]indane dissolved in 60 ml of methanol. The mixture was stirred at room temperature for 30 minutes. Then, under ice cooling, 1.03 g of sodium borohydride was added to the mixture. The resulting mixture was stirred at the same temperature for 20 minutes and then stirred at room temperature for 1 hour. After methanol was removed, water was added to the residue, and the residue was extracted with ethyl acetate. The organic layer was collected by filtration, washed with water and dried, and the solvent was removed. The residue was purified by silica gel column chromatography (solvent; chloroform: methanol (15:1)) to obtain 5.22 g of 2-propyl-aminomethyl-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane.

reactant | Propanal | 1.51 g | C(CC)=O | C3H6O
reactant | 2-aminomethyl-5-[4,5-dihydro-pyridazin-3(2H)-on-6-yl]indane | 6.15 g | NCC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C14H17N3O
reactant | sodium borohydride | 1.03 g | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | 2-propyl-aminomethyl-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 5.22 g | C(CC)C1C(C2=CC=C(C=C2C1)C=1CCC(NN1)=O)CN | C17H23N3O
